US07091199B1
Preparation of 3-thieno[2,3-d]isoxazol-3-yl-phenol (Scheme I, Compound 7)
Combine and stir under nitrogen at 140° C. a mixture of 3-(3-methoxyphenyl)thieno[2,3-d]isoxazole (8 g, 0.035 mol) and pyridine hydrochloride (80 g, 0.69 mol) for nine hours. TLC (ethyl acetate: dichloromethane) shows the reaction is complete. Cool the reaction mixture to room temperature, and pour into water. Extract the organics into ethyl acetate:ether (50:50), and wash once with HCl (3N), three times with water, dry (MgSO4) and evaporate to yield an oil. Purify the oil by column (silica) chromatography, eluting with 5% ethyl acetate in dichloromethane, to yield a solid. Recrystallize this solid (ether:hexane) to obtain the title compound as an orange/tan solid (3 g, 40% yield), m.p. 114–116° C.

reactant | 3-(3-methoxyphenyl)thieno[2,3-d]isoxazole | 0.035 mol, 8 g | COC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C12H9NO2S
reactant | pyridine hydrochloride | 0.69 mol, 80 g | Cl.N1=CC=CC=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-thieno[2,3-d]isoxazol-3-yl-phenol | 3 g, 40% yield | O1N=C(C2=C1C=CS2)C=2C=C(C=CC2)O | C11H7NO2S
